US08097759B2
2-Acetoxy-N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-5-chlorobenzamide (Compound No. 174)
Using N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-5-chloro-2-hydroxybenzamide and acetyl chloride as the raw materials, the same operation as the example 96 gave the title compound.

reactant | N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-5-chloro-2-hydroxybenzamide | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)NC(C1=C(C=CC(=C1)Cl)O)=O | C21H26ClNO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 2-Acetoxy-N-{3,5-bis[(1,1-dimethyl)ethyl]phenyl}-5-chlorobenzamide | Yield: 66.1% | C(C)(=O)OC1=C(C(=O)NC2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C=C1)Cl | C23H28ClNO3
